US06908935B2
Step 2) (6,4′-Dimethoxy-biphenyl-3-ylmethyl)-[1-(1-methyl-2,3-dihydro-1H-indol-4-yl)-ethyl]-amine
The title compound was prepared by the same procedure for (6,4′-dimethoxy-biphenyl-3-ylmethyl)-(1-quinolin-4-yl-ethyl)-amine from 1-(1-Methyl-2,3-dihydro-1H-indol-4-yl)-ethylamine (528 mg, 3.0 mmol), 6,4′-Dimethoxy-biphenyl-3-carbaldehyde (242 mg, 1.0 mmol) and sodium cyanoborohydride (1.0 g, 16 mmol, Aldrich). The title compound was purified by column chromatography (silica gel, ethyl acetate) in form as white solid in 55% yield (221 mg, 5.5 mmol).

reactant | (6,4′-dimethoxy-biphenyl-3-ylmethyl)-(1-quinolin-4-yl-ethyl)-amine | COC1=CC=C(C=C1C1=CC=C(C=C1)OC)CNC(C)C1=CC=NC2=CC=CC=C12 | C26H26N2O2
reactant | 1-(1-Methyl-2,3-dihydro-1H-indol-4-yl)-ethylamine | 3.0 mmol, 528 mg | CN1CCC2=C(C=CC=C12)C(C)N | C11H16N2
reactant | 6,4′-Dimethoxy-biphenyl-3-carbaldehyde | 1.0 mmol, 242 mg | COC1=CC=C(C=C1C1=CC=C(C=C1)OC)C=O | C15H14O3
reactant | sodium cyanoborohydride | 16 mmol, 1.0 g | C(#N)[BH3-].[Na+]
product | (6,4′-Dimethoxy-biphenyl-3-ylmethyl)-[1-(1-methyl-2,3-dihydro-1H-indol-4-yl)-ethyl]-amine | 55% yield | COC1=CC=C(C=C1C1=CC=C(C=C1)OC)CNC(C)C1=C2CCN(C2=CC=C1)C | C26H30N2O2
